US05728370
Bis-(8-methoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis (1,3) dioxol-4-yl)-mono-(8-methoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiol-4-yl) methane
Bis-(8-methoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)-mono-(8-methoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiol-4-yl)methanol (5 mg, 0.005 mmol) was dissolved in dry, degassed acetonitrile under an argon atmosphere. BF3.Et2O (2.0 μL, 0.011 mmol) and tin(II) chloride (3.0 mg, 0.016 mmol) were added. Amalgamated zinc (1.0 mg, 0.015 mmol) was added. The product was purified by flash chromatography (ether/heptane 5:1). Due to the small amount used the yield was not determined.

reactant | Bis-(8-methoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)-mono-(8-methoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiol-4-yl)methanol | 0.005 mmol, 5 mg | COC(=O)C1=C2OC(OC2=C(C=2OC(OC21)(C)C)C(O)(C2=C1C(SC(S1)(C)C)=C(C1=C2SC(S1)(C)C)C(=O)OC)C1=C2C(OC(O2)(C)C)=C(C2=C1OC(O2)(C)C)C(=O)OC)(C)C | C43H46O15S4
reactant | BF3.Et2O | 0.011 mmol, 2.0 μL | B(F)(F)F.CCOCC
reactant | tin(II) chloride | 0.016 mmol, 3.0 mg | [Sn](Cl)Cl
catalyst | zinc | 0.015 mmol, 1.0 mg | [Zn] | Zn
product | Bis-(8-methoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis (1,3) dioxol-4-yl)-mono-(8-methoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiol-4-yl) methane | COC(=O)C1=C2OC(OC2=C(C=2OC(OC21)(C)C)C(C2=C1C(SC(S1)(C)C)=C(C1=C2SC(S1)(C)C)C(=O)OC)C1=C2C(OC(O2)(C)C)=C(C2=C1OC(O2)(C)C)C(=O)OC)(C)C | C43H46O14S4
